US04241072
Following the procedure of Example 1C, using 9.4 g. (0.046 moles) of N,N-dimethyl-N'-(2-benzimidazolyl)-1,2-ethane diamine, 6.0 g. (0.06 moles) of triethylamine, 5.7 g. (0.053 moles) of N,N-dimethylcarbamoyl chloride and 150 ml. of benzene, there is obtained N,N-dimethyl-N'-(2-dimethylaminoethyl)-N'-(2-benzimidazolyl) urea, which, after chromatographic separation on 375 g. of silica gel, and elution with a mixture of 500 ml. of chloroform, 100 ml. of isopropanol, 100 ml. of toluene and 10 ml. of triethylamine, affords 9.4 g. of oil. This is treated with hydrogen bromide and recrystallized from ethanol to give 8.2 g. of dihydrobromide salt, m.p. 193°-195° C.

reactant | N,N-dimethyl-N'-(2-benzimidazolyl)-1,2-ethane diamine | 0.046 moles | CN(CCNC=1NC2=C(N1)C=CC=C2)C | C11H16N4
reactant | triethylamine | 0.06 moles | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylcarbamoyl chloride | 0.053 moles | CN(C(=O)Cl)C | C3H6ClNO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N,N-dimethyl-N'-(2-dimethylaminoethyl)-N'-(2-benzimidazolyl) urea | CN(C(=O)N(C=1NC2=C(N1)C=CC=C2)CCN(C)C)C | C14H21N5O
